US09382222B2
A solution of isobutylamine (1.10 mL, 11.14 mmol) and pyridine (600 μL, 7.42 mmol) in DCM (60 mL) was treated with 4-(bromomethyl)benzene sulfonyl chloride (2.00 g, 7.42 mmol) and stirred at room temperature for 1.5 hours. The mixture was diluted with DCM, washed with 1 N aqueous HCl, saturated aqueous NaHCO3, water and brine, dried over Na2SO4 and concentrated under vacuum. Purification by silica gel column chromatography (0-50% EtOAc in cyclohexane) gave 4-bromomethyl-N-isobutyl-benzenesulfonamide (1.08 g, 48%). 1H NMR (300 MHz, CDCl3) δ 7.83 (d, J=8.1 Hz, 2H), 7.53 (d, J=8.1 Hz, 2H), 4.50 (s, 2H), 4.43 (t, J=6.4 Hz, 1H), 2.78 (t, J=6.6 Hz, 2H), 1.81-1.65 (m, 1H), 0.88 (d, J=6.7 Hz, 6H). LCMS (m/z, Method A) ES+ 308.0 [M+Na]+.

reactant | isobutylamine | 11.14 mmol, 1.10 mL | C(C(C)C)N | C4H11N
reactant | pyridine | 7.42 mmol, 600 μL | N1=CC=CC=C1 | C5H5N
reactant | 4-(bromomethyl)benzene sulfonyl chloride | 7.42 mmol, 2.00 g | BrCC1=CC=C(C=C1)S(=O)(=O)Cl | C7H6BrClO2S
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
product | 4-bromomethyl-N-isobutyl-benzenesulfonamide | 1.08 g, 48% | BrCC1=CC=C(C=C1)S(=O)(=O)NCC(C)C | C11H16BrNO2S
